US04096267
Step A: 2,2-Diphenyl-5-methoxy-6,7-dichloro-1-indanone
Potassium tert-butoxide (7.0 g., 0.0624 mole) dissolved in tert-butanol (500 ml.) is added to a mixture of 2-phenyl-5-methoxy-6,7-dichloro-1-indanone (9.59 g., 0.0312 mole), diphenyliodonium chloride (39.6 g., 0.125 mole), tert-butanol (1500 ml.) and benzene (500 ml.) at 70° C. during one hour, then stirred at 70° C. for 2 hours. The reaction mixture is concentrated in vacuo to 1/4 of its volume, unreacted iodonium salt filtered off, and the remaining liquid concentrated to dryness to give 5.71 g. of 2,2-diphenyl-5-methoxy-6,7-dichloro-1-indanone which melts at 172°-174° C. after crystallization from cyclohexane.

reactant | Potassium tert-butoxide | 0.0624 mole, 7.0 g | CC(C)([O-])C.[K+]
reactant | 2-phenyl-5-methoxy-6,7-dichloro-1-indanone | 0.0312 mole, 9.59 g | C1(=CC=CC=C1)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C16H12Cl2O2
reactant | diphenyliodonium chloride | 0.125 mole, 39.6 g | [Cl-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | tert-butanol | 500 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 1500 ml | C(C)(C)(C)O | C4H10O
product | 2,2-Diphenyl-5-methoxy-6,7-dichloro-1-indanone | C1(=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C1=CC=CC=C1 | C22H16Cl2O2
